US04453028
Perfluorination of Diphenylmethane
Diphenylmethane (0.24 g) was placed in a reactor chamber and contacted with helium and fluorine according to the reaction conditions listed in Table 2. Bis(perfluorocyclohexyl) difluoromethane was obtained in 93% yield (0.72 g) by recrystallization in hexafluorobenzene (C6F6). 19F NMR of the product dissolved in C6F6 gave two broad multiplets centered around +120 and +180 ppm from CFCl3 which integrated for eleven and one, respectively. Infrared analysis utilizing a KBr disk gave absorptions at 1180 (broad), 1000 (m), 960 (m), 500 (w), and 480 (w) cm-1. The highest molecular weight fragment observed in the mass spectrum m/e 331, corresponded to the parent minus one perfluorophenyl. Freezing point depression of bis(perfluorocyclohexyl) difluoromethane in C6F6 gave a moleculr weight of 550 g/mol (theoretical: 612 g/mol).

reactant | bis(perfluorocyclohexyl) difluoromethane | FC1(C(C(C(C(C1(F)F)(F)F)(F)F)(F)F)(F)F)C(F)(F)C1(C(C(C(C(C1(F)F)(F)F)(F)F)(F)F)(F)F)F | C13F24
solvent | C6F6 | FC1=C(F)C(F)=C(F)C(F)=C1F | C6F6
product | Diphenylmethane | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
